US09193935B2
6.2: 1-((6E)-Dodeca-2,6-dienyl)-4-methoxybenzene
Starting from p-methoxyphenethyltriphenylphosphonium bromide (3.12 g, 6.54 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 4.1 mL, 6.54 mmol, 1.0 equiv.) and (E)-dec-4-enal (1.51 g, 9.80 mmol, 1.5 equiv.), 0.85 g (48%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (hexanes/EtOAc 992:8).

reactant | p-methoxyphenethyltriphenylphosphonium bromide | 6.54 mmol, 3.12 g, 1.0 equiv. | [Br-].COC1=CC=C(CC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | n-BuLi | 6.54 mmol, 1.6 M, 4.1 mL, 1.0 equiv. | [Li]CCCC
reactant | (E)-dec-4-enal | 9.80 mmol, 1.51 g, 1.5 equiv. | C(CC\C=C\CCCCC)=O | C10H18O
product | 1-((6E)-Dodeca-2,6-dienyl)-4-methoxybenzene | 0.85 g, 48% | C(C=CCC\C=C\CCCCC)C1=CC=C(C=C1)OC | C19H28O
